US07183306B2
To a solution of cyclopropylmagnesium bromide, which was prepared from cyclopropyl bromide (257 ml) and magnesium (57 mg) in THF (1 ml) as usual method, was added a solution of 5-(4-{2-[(aminocarbonyl)-amino]ethyl}phenyl)-N-methoxy-1-(4-methoxyphenyl)-N-methyl-1H-pyrazole-3-carboxamide (90 mg) in THF (3 ml) dropwise at ambient temperature. The mixture was stirred at 50° C. for 5 hours. The reaction mixture was cooled to ambient temperature and was quenched by adding saturated aqueous ammonium chloride solution. The mixture was extracted with AcOEt. The organic layer was washed with 1M HCl, saturated aqueous sodium bicarbonate solution, saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by preparative thin layer silica gel chromatography developed by MeOH/CHC3 10%. The separated silica gel was extracted with 10% MeOH/CHCl3 and the solvent was evaporated in vacuo to give N-(2-{4-[3-(cyclopropylcarbonyl)-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenyl}ethyl)urea (23 mg) as a powder.

reactant | cyclopropylmagnesium bromide | C1(CC1)[Mg]Br
reactant | cyclopropyl bromide | 257 ml | C1(CC1)Br | C3H5Br
reactant | magnesium | 57 mg | [Mg] | Mg
reactant | 5-(4-{2-[(aminocarbonyl)-amino]ethyl}phenyl)-N-methoxy-1-(4-methoxyphenyl)-N-methyl-1H-pyrazole-3-carboxamide | 90 mg | NC(=O)NCCC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(=O)N(C)OC | C22H25N5O4
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-(2-{4-[3-(cyclopropylcarbonyl)-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenyl}ethyl)urea | 23 mg | C1(CC1)C(=O)C1=NN(C(=C1)C1=CC=C(C=C1)CCNC(=O)N)C1=CC=C(C=C1)OC | C23H24N4O3
